US09422292B2
A round bottomed flask was charged with palladium on carbon (327 mg, 0.308 mmol) and a stirbar. Ethyl 3-(2-nitrophenylamino)butanoate (776 mg, 3.08 mmol) in 1:1 EtOH:EtOAc (40 mL) was added, and the flask was evacuated and purged with hydrogen three times. Stirred at room temperature for 3 h. The mixture was filtered and concentrated to yield ethyl 3-(2-aminophenylamino)butanoate as an oil.

reactant | Ethyl 3-(2-nitrophenylamino)butanoate | 3.08 mmol, 776 mg | [N+](=O)([O-])C1=C(C=CC=C1)NC(CC(=O)OCC)C | C12H16N2O4
reactant | EtOH | CCO | C2H6O
catalyst | palladium on carbon | 0.308 mmol, 327 mg | [Pd] | Pd
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | ethyl 3-(2-aminophenylamino)butanoate | NC1=C(C=CC=C1)NC(CC(=O)OCC)C | C12H18N2O2
